US06100272
1-tert-Butyl-1,2,3,6-tetrahydropyridine-4-methanol
A solution of methyl 1-tert-butyl-1,2,3,6-tetrahydropyridine-4-carboxylate (D57) (855 mg; 4.3 mmol) in dry tetrahydrofuran (10 ml) was added to a stirred suspension of lithium aluminium hydride (223 mg; 58 mmol) in dry tetrahydrofuran (20 ml) at 0° C. over 5 minutes. After stirring at 0° C. for 1 h, water (0.22 ml), 10% sodium hydroxide (0.33 ml) and water (0.55 ml) were added, and stirring continued for 30 minutes. The mixture was filtered through kieselguhr, and the filtrate evaporated under reduced pressure to give the title compound as an orange oil (610 mg, 83%).

reactant | methyl 1-tert-butyl-1,2,3,6-tetrahydropyridine-4-carboxylate | 4.3 mmol, 855 mg | C(C)(C)(C)N1CCC(=CC1)C(=O)OC | C11H19NO2
reactant | lithium aluminium hydride | 58 mmol, 223 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.22 ml | O | H2O
reactant | sodium hydroxide | 0.33 ml | [OH-].[Na+]
reactant | water | 0.55 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-tert-Butyl-1,2,3,6-tetrahydropyridine-4-methanol | 610 mg, 83% | C(C)(C)(C)N1CCC(=CC1)CO | C10H19NO
